US04687777
A solution of 4-[2-(5-methyl-2-pyridyl)ethoxy]nitrobenzene (15.0 g) in methanol (150 ml) was subjected to catalytic reduction under 1 atmospheric pressure in the presence of 10% Pd-C (50% wet, 2.0 g). The catalyst was filtered off, and the filtrate was concentrated to give 4-[2-(5-methyl-2-pyridyl)ethoxy]aniline as crystals (12.3 g, 92.5%). Recrystallization from ethyl acetate-hexane gave colorless prisms, m.p. 74°-75° C.

reactant | 4-[2-(5-methyl-2-pyridyl)ethoxy]nitrobenzene | 15.0 g | CC=1C=CC(=NC1)CCOC1=CC=C(C=C1)[N+](=O)[O-] | C14H14N2O3
solvent | methanol | 150 ml | CO | CH4O
catalyst | Pd-C | 2.0 g | [Pd] | Pd
product | 4-[2-(5-methyl-2-pyridyl)ethoxy]aniline | 12.3 g, 92.5% | CC=1C=CC(=NC1)CCOC1=CC=C(N)C=C1 | C14H16N2O
